data/rdb19/train.csv
rxn,smiles,ea
4925,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[C:19]1([H:27])[C:18]([H:26])=[C:17]([C:16](=[C:15]([H:23])[H:24])[H:25])[C:22]([H:30])=[C:21]([H:29])[C:20]1[H:28])([H:10])[H:11])([H:7])([H:8])[H:9],19.967985856637824
2368,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:24])([H:25])[H:26])([c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:1]([C:2]([H:3])([H:4])[H:23])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:24])([H:25])[H:26])[c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])([H:21])[H:22])([H:18])([H:19])[H:20],18.20757580327336
2791,[C:1]([C:2]([O:3][C:4](=[O:5])[O:26][C:25]([C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([N:24]([C:22]([C:21]([C:20]([H:27])([H:28])[H:29])([H:30])[H:31])([C:23]([H:33])([H:34])[H:35])[H:32])[H:36])[H:37])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:2]([O:3][C:4]1([O:5][H:15])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])[H:16])[C:25]([N:24]([C:22]([C:21]([C:20]([H:27])([H:28])[H:29])([H:30])[H:31])([C:23]([H:33])([H:34])[H:35])[H:32])[H:36])([H:37])[O:26]1)([H:13])[H:14])([H:10])([H:11])[H:12],57.66302350378828
1698,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:15]([H:22])([H:23])[H:24],77.66462706716266
2829,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]=[O:22])([H:26])([H:27])[H:28],66.60756169538945
4992,[C:11]([O:12][C:13]([C:14]([H:22])([H:23])[H:24])([C:15]([H:16])[H:17])[H:21])([H:18])([H:19])[H:20].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([O:12][C:13]([C:14]([H:22])([H:23])[H:24])=[C:15]([H:16])[H:17])([H:18])([H:19])[H:20].[C:1]([O:2][C:3]([C:4]([H:9])[H:10])([H:8])[H:21])([H:5])([H:6])[H:7],39.26441758283181
2080,[C:11]([H:12])([H:13])[H:14].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3][C:11]([H:12])([H:13])[H:14])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],28.12642050193972
5440,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([H:22])[H:23])[O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6]([O:7])([H:18])[H:31])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],52.58115092659136
3329,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14]([C:15](=[C:16]([H:25])[H:26])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([H:5])([H:6])([H:7])[H:27].[C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12],88.81307872233447
871,[C:19]([C:20]([C:21]([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38])([H:32])[H:33])([H:29])([H:30])[H:31].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38])[H:32])([H:29])([H:30])[H:31].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])[H:11])([H:8])([H:9])[H:10].[H:12][H:33],51.88973967212951
3925,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([C:4]([H:11])[H:12])([H:10])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:16])[H:17])([H:8])[H:9])([H:5])([H:6])[H:7],17.632963781710714
